### PR TITLE
Minkowski

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Motivation for this change

This PR introduces Minkowski's inequality, a consequence of Hoelder's.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [ ] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Minkowski should also hold with p = 1

**Comment by hoheinzollern** [comment]
> Minkowski should also hold with p = 1

It does, I just updated the proof.

**Comment by hoheinzollern** [comment]
I tried to simplify the proof after our meeting, but it's impossible to merge the "`ge0_le_integral`" steps as proposed in the meeting as they are interleaved with other operations that are incompatible

File: theories/exp.v [hunk 1]
```diff
@@ -924,6 +943,21 @@ Qed.
 Lemma poweR_eq0_eq0 x r : 0 <= x -> x `^ r = 0 -> x = 0.
 Proof. by move=> + /eqP => /poweR_eq0-> /andP[/eqP]. Qed.
 
+Lemma gt0_ler_poweR (r : R) : (0 <= r)%R ->
+  {in `[0, +oo] &, {homo poweR ^~ r : x y / x <= y >-> x <= y}}.
```
Comment (affeldt-aist) [inline theories/exp.v:947]: Maybe we should use Rpos.nneg here?

File: theories/hoelder.v [hunk 2]
```diff
@@ -87,7 +85,15 @@ under eq_integral => x _ do rewrite ger0_norm ?powR_ge0//.
 by rewrite fp//; apply: integral_ge0 => t _; rewrite lee_fin powR_ge0.
 Qed.
 
+Lemma Lnorm_powR_K f (p : R) : p != 0%R ->
```
Comment (affeldt-aist) [inline theories/hoelder.v:88]: This is maybe not a good name, I looked at the proof steps using this lemma but couldn't come with an improvement. :-(

Comment (affeldt-aist) [reply theories/hoelder.v:88]: At least, powR_Lnorm would be better (head symbol goes first).

**Review by affeldt-aist — APPROVED** [review]
We spent enough time on this one I think.
